US07691882B2
2-Methyl-5-(4-((E)-2-nitro-vinyl)-benzyl)-furan
To a mixture of 4-(5-methyl-furan-2-ylmethyl)-benzaldehyde (96 mg, 0.48 mmol) described in Manufacturing Example 46-1-3 and acetic acid (1 mL) were added nitromethane (190 μL, 3.6 mmol) and ammonium acetate (110 mg, 1.4 mmol) at room temperature, which was stirred for 3 hours at 100° C. The reaction mixture was cooled to room temperature, and extracted by addition of water and ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate. The filtrate was concentrated under a reduced pressure to obtain the title compound (120 mg) as a crude product. This compound was used in the following reaction without further purification.

reactant | 4-(5-methyl-furan-2-ylmethyl)-benzaldehyde | 0.48 mmol, 96 mg | CC1=CC=C(O1)CC1=CC=C(C=O)C=C1 | C13H12O2
reactant | nitromethane | 3.6 mmol, 190 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 1.4 mmol, 110 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-Methyl-5-(4-((E)-2-nitro-vinyl)-benzyl)-furan | 120 mg | CC=1OC(=CC1)CC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C14H13NO3
